US04758548
2,4,5,7,7-Pentamethyloctanal was prepared from 2,3,5,5-tetramethylhexanal (aldehyde of TMH from Dragoco, Holzminden) and propionaldehyde similarly to Examples 1 and 2; the compound was obtained in the form of a diastereomeric mixture.

reactant | 2,3,5,5-tetramethylhexanal | CC(C=O)C(CC(C)(C)C)C | C10H20O
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 2,4,5,7,7-Pentamethyloctanal | CC(C=O)CC(C(CC(C)(C)C)C)C | C13H26O
